US09029544B2
5-((S)—((S)-5′-(tert-butyldimethylsilyloxy)-4′-(3,6-dihydro-2H-pyran-4-yl)-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3-yl)(hydroxy)methyl)-2-(trifluoromethyl)benzonitrile
Obtained by starting from (S)-5′-(tert-butyldimethylsilyloxy)-4′-(3,6-dihydro-2H-pyran-4-yl)-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-carbaldehyde and 5-iodo-2-(trifluoromethyl)benzonitrile. A 1.3 M solution of isopropylmagnesium chloride-lithium chloride-complex in tetrahydrofurane is used instead of a 2 M solution of isopropylmagnesium chloride in tetrahydrofurane.

reactant | (S)-5′-(tert-butyldimethylsilyloxy)-4′-(3,6-dihydro-2H-pyran-4-yl)-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-carbaldehyde | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC2(C1)CCC2)C(C)C)C=O)C=2CCOCC2 | C27H41NO3Si
reactant | 5-iodo-2-(trifluoromethyl)benzonitrile | IC=1C=CC(=C(C#N)C1)C(F)(F)F | C8H3F3IN
reactant | isopropylmagnesium chloride lithium chloride | C(C)(C)[Mg]Cl.[Cl-].[Li+]
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | tetrahydrofurane | O1CCCC1 | C4H8O
product | 5-((S)—((S)-5′-(tert-butyldimethylsilyloxy)-4′-(3,6-dihydro-2H-pyran-4-yl)-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3-yl)(hydroxy)methyl)-2-(trifluoromethyl)benzonitrile | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=CC(=NC2CC2(C1)CC(C2)[C@@H](C=2C=CC(=C(C#N)C2)C(F)(F)F)O)C(C)C)C=2CCOCC2 | C35H45F3N2O3Si
